US05210208
To a solution of N-methyl-N-phenethyl-2-[3-formylpyrrol-1-yl]acetamide in methanol, stirred in an ice bath, is added in portions 5 molar equivalents of sodium borohydride. The mixture is stirred in the cooling bath for an additional 45 minutes and 1N aqueous HCl solution is added dropwise until the pH of the mixture is approximately 6-7. The resulting mixture is concentration in vacuo and the residue obtained is partitioned between ethyl acetate and water. The organic layer is dried over MgSO4 and concentrated in vacuo to give N-methyl-N-phenethyl-2-[3-hydroxymethylpyrrol-1-yl]acetamide. This material is used without further purification in the next step.

reactant | N-methyl-N-phenethyl-2-[3-formylpyrrol-1-yl]acetamide | CN(C(CN1C=C(C=C1)C=O)=O)CCC1=CC=CC=C1 | C16H18N2O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | N-methyl-N-phenethyl-2-[3-hydroxymethylpyrrol-1-yl]acetamide | CN(C(CN1C=C(C=C1)CO)=O)CCC1=CC=CC=C1 | C16H20N2O2
